US09024046B2
N-[2-butyl-3-{4-[(3-amino)propoxy]benzoyl}-1-benzofuran-5-yl]methanesulfonamide (II)
3.0 g of N-[2-butyl-3-{4-[2-cyanoethoxy]benzoyl}-1-benzofuran-5-yl]methanesulfonamide is dissolved in 300 ml of methanol and 5 g of Raney-Ni catalyst is added. The mixture is stirred at 25° C. at 10 bar H2 pressure for 24 hours. The catalyst is filtered and the solvent is evaporated.

reactant | N-[2-butyl-3-{4-[2-cyanoethoxy]benzoyl}-1-benzofuran-5-yl]methanesulfonamide | 3.0 g | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCC#N)=O)C=C(C=C2)NS(=O)(=O)C | C23H24N2O5S
solvent | methanol | 300 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | N-[2-butyl-3-{4-[(3-amino)propoxy]benzoyl}-1-benzofuran-5-yl]methanesulfonamide | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN)=O)C=C(C=C2)NS(=O)(=O)C | C23H28N2O5S
